* generic speaker simulation (8 ohm)
* as published in Stereophile Magazine.
*
* Donated by Jaime Arbona, converted to subcircuit form

.SUBCKT SPEAKER G $N_0002
R_R29         $N_0002 $N_0001  8  
R_R30         $N_0003 $N_0002  5  
R_R31         $N_0004 $N_0002  5.6  
C_C9         $N_0001 $N_0005  4.7uf  
C_C10         G $N_0003  3.3uf  
R_R32         $N_0006 $N_0005  0.5  
L_L16         $N_0004 $N_0007  0.5mH  
R_R33         $N_0009 $N_0008  100  
R_R34         $N_0008 G  39  
R_R35         $N_0008 $N_0010  0.6  
R_R36         $N_0008 $N_0011  0.9  
L_L17         $N_0011 $N_0009  1mH  
L_L18         G $N_0010  10mH  
R_R37         $N_0009 $N_0007  0.7  
L_L19         G $N_0006  0.3mH  
C_C11         G $N_0008  500uf  
.ENDS 
*-----------------------------------------------------------------------
* Filename:		VINT30.inc  V3  3/7/97
* Simulator:		PSpice
* Device type:		Loudspeaker
* Device model:		Celestion Vintage 30
*
* Author:		Duncan Munro
* Date:			29/6/97
* Copyright:		(C)1997 DDS
*
* The model reflects the change of impedance as presented to
* the amplifier with frequency.
*
* Please note that this model is provided "as is" and
* no warranty is provided in respect of its suitability
* for any application.
*
* This model is provided for educational and non-profit use.
*
* The model is not endorsed or supported by Celestion.  All trademarks
* acknowledged.
*
* Email queries to duncan@muffy.demon.co.uk
*
* Pins   A  Terminal 1
*        B  Terimal 2
*
*-----------------------------------------------------------------------

.SUBCKT VINT30 A B
R_RL          A       $N_0002  7.5  
R_RD1         $N_0002 $N_0003  12.5  
L_LD1         $N_0003 $N_0002  20mH  
C_CD1         $N_0002 $N_0003  250u  
R_RD2         $N_0003 $N_0004  0.5  
C_CD2         $N_0003 $N_0004  50u  
L_LD2         $N_0004 $N_0003  100uH  
L_LD3         B       $N_0004  100uH  
R_RD3	      B       $N_0004  20
.ENDS 
*-----------------------------------------------------------------------
* Filename:		VINT10.inc  V3  3/7/97
* Simulator:		PSpice
* Device type:		Loudspeaker
* Device model:		Celestion Vintage 10
*
* Author:		Duncan Munro
* Date:			29/6/97
* Copyright:		(C)1997 DDS
*
* The model reflects the change of impedance as presented to
* the amplifier with frequency.
*
* Please note that this model is provided "as is" and
* no warranty is provided in respect of its suitability
* for any application.
*
* This model is provided for educational and non-profit use.
*
* The model is not endorsed or supported by Celestion.  All trademarks
* acknowledged.
*
* Email queries to duncan@muffy.demon.co.uk
*
* Pins   A  Terminal 1
*        B  Terimal 2
*
*-----------------------------------------------------------------------

.SUBCKT VINT10 A B
R_RL          A       $N_0002  7.5  
R_RD1         $N_0002 $N_0003  12.5  
L_LD1         $N_0003 $N_0002  20mH  
C_CD1         $N_0002 $N_0003  195u  
R_RD2         $N_0003 $N_0004  0.5  
C_CD2         $N_0003 $N_0004  50u  
L_LD2         $N_0004 $N_0003  100uH  
L_LD3         B       $N_0004  120uH  
R_RD3	      B       $N_0004  20
.ENDS 
*-----------------------------------------------------------------------
* Filename:		G12T75.inc  V3  3/7/97
* Simulator:		PSpice
* Device type:		Loudspeaker
* Device model:		Celestion G12T-75
*
* Author:		Duncan Munro
* Date:			29/6/97
* Copyright:		(C)1997 DDS
*
* The model reflects the change of impedance as presented to
* the amplifier with frequency.
*
* Please note that this model is provided "as is" and
* no warranty is provided in respect of its suitability
* for any application.
*
* This model is provided for educational and non-profit use.
*
* The model is not endorsed or supported by Celestion.  All trademarks
* acknowledged.
*
* Email queries to duncan@muffy.demon.co.uk
*
* Pins   A  Terminal 1
*        B  Terimal 2
*
*-----------------------------------------------------------------------

.SUBCKT G12T75 A B
R_RL          A       $N_0002  7.5  
R_RD1         $N_0002 $N_0003  15  
L_LD1         $N_0003 $N_0002  20mH  
C_CD1         $N_0002 $N_0003  190u  
R_RD2         $N_0003 $N_0004  0.5  
C_CD2         $N_0003 $N_0004  50u  
L_LD2         $N_0004 $N_0003  100uH  
L_LD3         B       $N_0004  100uH  
R_RD3	      B       $N_0004  20
.ENDS 
*-----------------------------------------------------------------------
* Filename:		G12M.inc  V3  3/7/97
* Simulator:		PSpice
* Device type:		Loudspeaker
* Device model:		Celestion G12M
*
* Author:		Duncan Munro
* Date:			29/6/97
* Copyright:		(C)1997 DDS
*
* The model reflects the change of impedance as presented to
* the amplifier with frequency.
*
* Please note that this model is provided "as is" and
* no warranty is provided in respect of its suitability
* for any application.
*
* This model is provided for educational and non-profit use.
*
* The model is not endorsed or supported by Celestion.  All trademarks
* acknowledged.
*
* Email queries to duncan@muffy.demon.co.uk
*
* Pins   A  Terminal 1
*        B  Terimal 2
*
*-----------------------------------------------------------------------

.SUBCKT G12M A B
R_RL          A       $N_0002  7.5  
R_RD1         $N_0002 $N_0003  12  
L_LD1         $N_0003 $N_0002  20mH  
C_CD1         $N_0002 $N_0003  225u  
R_RD2         $N_0003 $N_0004  0.5  
C_CD2         $N_0003 $N_0004  50u  
L_LD2         $N_0004 $N_0003  100uH  
L_LD3         B       $N_0004  100uH  
R_RD3	      B       $N_0004  20
.ENDS 
*-----------------------------------------------------------------------
* Filename:		G12H100.inc  V3  3/7/97
* Simulator:		PSpice
* Device type:		Loudspeaker
* Device model:		Celestion G12H-100
*
* Author:		Duncan Munro
* Date:			30/6/97
* Copyright:		(C)1997 DDS
*
* The model reflects the change of impedance as presented to
* the amplifier with frequency.
*
* Please note that this model is provided "as is" and
* no warranty is provided in respect of its suitability
* for any application.
*
* This model is provided for educational and non-profit use.
*
* The model is not endorsed or supported by Celestion.  All trademarks
* acknowledged.
*
* Email queries to duncan@muffy.demon.co.uk
*
* Pins   A  Terminal 1
*        B  Terimal 2
*
*-----------------------------------------------------------------------

.SUBCKT G12H100 A B
R_RL          A       $N_0002  6.5  
R_RD1         $N_0002 $N_0003  13  
L_LD1         $N_0003 $N_0002  20mH  
C_CD1         $N_0002 $N_0003  190u  
R_RD2         $N_0003 $N_0004  1  
C_CD2         $N_0003 $N_0004  50u  
L_LD2         $N_0004 $N_0003  100uH  
L_LD3         B       $N_0004  100uH  
R_RD3	      B       $N_0004  20
.ENDS 
* Speaker spice models for SwCAD III
* -------------------------------------------------------------------
*
* All model data is based on Thiele-Small parameters
* published by the manufacturer. Do not share an altered file.
*
* Model List:
* Manufacturer 	Model 					Subckt name
* ------------------------------------------------------------------
* Eminence	Legend 875, 4 ohm			Legend_875
* Eminence	Legend 105, 8 ohm			Legend_105-8
* Eminence	Legend 105, 16 ohm			Legend_105-16
* Eminence	Legend 102, 8 ohm			Legend_102
* Eminence	Legend 121, 8 ohm			Legend_121
* Eminence	Legend V12, 8 ohm			Legend_V12-8
* Eminence	Legend V12, 16 ohm			Legend_V12-16
* Eminence	Legend GB12, 8 ohm			Legend_GB12-8
* Eminence	Legend GB12, 16 ohm			Legend_GB12_16
* Eminence	Legend 125, 8 ohm			Legend_125
* Eminence	Legend 122, 8 ohm			Legend_122
* Eminence	Legend Modeling 12, 8 ohm	Legend_Modeling12
* Eminence	Legend FS12, 8 ohm			Legend_FS12
* Eminence	Legend CB15, 8 ohm			Legend_CB15
* Eminence	Legend 151, 8 ohm			Legend_151
* Jensen	P8R, 8 ohm					Jensen_P8R
* Jensen	P10R, 8 ohm					Jensen_P10R
* Jensen	P10Q, 8 ohm					Jensen_P10Q
* Jensen	P12N, 8 ohm					Jensen_P12N
* Jensen	P12R, 8 ohm					Jensen_P12R
* Jensen	P12Q, 8 ohm					Jensen_P12Q
* Jensen	P15N, 8 ohm					Jensen_P15N
* Jensen	C8R, 8 ohm					Jensen_C8R
* Jensen	C10Q, 8 ohm					Jensen_C10Q
* Jensen	C10R, 8 ohm					Jensen_C10R
* Jensen	C12K, 8 ohm					Jensen_C12K
* Jensen	C12N, 8 ohm					Jensen_C12N
* Jensen	C12Q, 8 ohm					Jensen_C12Q
* Jensen	C12R, 8 ohm					Jensen_C12R
* Jensen	C15K, 8 ohm					Jensen_C15K
* Jensen	C15N, 8 ohm					Jensen_C15N
* Jensen	Mod 6-15, 4 ohm				Jensen_Mod6-15
* Jensen	Mod 8-20, 8 ohm				Jensen_Mod8-20
* Jensen	Mod 10-35, 8 ohm			Jensen_Mod10-35
* Jensen	Mod 10-50, 8 ohm			Jensen_Mod10-50
* Jensen	Mod 10-70, 8 ohm			Jensen_Mod10-70
* Jensen	Mod 12-35, 8 ohm			Jensen_Mod12-35
* Jensen	Mod 12-50, 8 ohm			Jensen_Mod12-50
* Jensen	Mod 12-70, 8 ohm			Jensen_Mod12-70
* Jensen	Mod 12-110, 8 ohm			Jensen_Mod12-110
* Jensen	Mod 15-120, 8 ohm			Jensen_Mod15-120
* Jensen	Mod 15-200, 8 ohm			Jensen_Mod15-200
*
* Terminal connections: P=positive, N=negative

* Eminence Legend 875, 4 ohm 8"
.subckt Legend_875 P N 
Re N001 P 3.88
Le N001 N002 0.34m
Cmes N002 N 316µ
Lces N002 N 10.09m
Res N002 N 23.68
.ends Legend_875

* Eminence Legend 105, 8 ohm, 10"
.subckt Legend_105-8 P N 
Re N001 P 7.49
Le N001 N002 0.56m
Cmes N002 N 265.63µ
Lces N002 N 10.24m
Res N002 N 110.34
.ends Legend_105-8

* Eminence Legend 105, 16 ohm, 10"
.subckt Legend_105-16 P N 
Re N001 P 10.2
Le N001 N002 0.64m
Cmes N002 N 214.54µ
Lces N002 N 12.66m
Res N002 N 105.89
.ends Legend_105-16

* Eminence Legend 102, 8 ohm, 10"
.subckt Legend_102 P N 
Re N001 P 5.81
Le N001 N002 0.51m
Cmes N002 N 464.94µ
Lces N002 N 6.13m
Res N002 N 64.52
.ends Legend_102

* Eminence Legend 121, 8 ohm, 12"
.subckt Legend_121 P N 
Re N001 P 6.95
Le N001 N002 0.69m
Cmes N002 N 215.52µ
Lces N002 N 12.11m
Res N002 N 113.08
.ends Legend_121

* Eminence Legend V12, 8 ohm, 12"
.subckt Legend_V12-8 P N 
Re N001 P 6.37
Le N001 N002 0.64m
Cmes N002 N 234.4µ
Lces N002 N 13.23m
Res N002 N 91.84
.ends Legend_V12-8

* Eminence Legend V12, 16 ohm, 12"
.subckt Legend_V12-16 P N 
Re N001 P 9.86
Le N001 N002 0.74m
Cmes N002 N 126.5µ
Lces N002 N 33.2m
Res N002 N 163.56
.ends Legend_V12-16

* Eminence Legend GB12, 8 ohm, 12"
.subckt Legend_GB12-8 P N 
Re N001 P 6.37
Le N001 N002 0.64m
Cmes N002 N 194.44µ
Lces N002 N 17.28m
Res N002 N 184.62
.ends Legend_GB12-8

* Eminence Legend GB12, 16 ohm, 12"
.subckt Legend_GB12-16 P N 
Re N001 P 13.15
Le N001 N002 1.11m
Cmes N002 N 106.69µ
Lces N002 N 44.61m
Res N002 N 332.2
.ends Legend_GB12-16

* Eminence Legend 125, 8 ohm, 12"
.subckt Legend_125 P N 
Re N001 P 7.44
Le N001 N002 0.7m
Cmes N002 N 269.34µ
Lces N002 N 10.69m
Res N002 N 38.7
.ends Legend_125

* Eminence Legend 122, 8 ohm, 12"
.subckt Legend_122 P N 
Re N001 P 5.66
Le N001 N002 0.56m
Cmes N002 N 613.02µ
Lces N002 N 9.22m
Res N002 N 81.56
.ends Legend_122

* Eminence Legend Modeling 12, 8 ohm, 12"
.subckt Legend_Modeling12 P N 
Re N001 P 6.19
Le N001 N002 0.55m
Cmes N002 N 208.09µ
Lces N002 N 12.11m
Res N002 N 70.08
.ends Legend_Modeling12

* Eminence Legend FS12, 8 ohm, 12"
.subckt Legend_FS12 P N 
Re N001 P 7.20
Le N001 N002 0.71m
Cmes N002 N 282.12µ
Lces N002 N 19.35m
Res N002 N 144
.ends Legend_FS12

* Eminence Legend CB15, 8 ohm, 15"
.subckt Legend_CB15 P N 
Re N001 P 6.03
Le N001 N002 1.51m
Cmes N002 N 238.05µ
Lces N002 N 91.31m
Res N002 N 188.77
.ends Legend_CB15

* Eminence Legend 151, 8 ohm, 15"
.subckt Legend_151 P N 
Re N001 P 7.16
Le N001 N002 0.86m
Cmes N002 N 276.65µ
Lces N002 N 13.92m
Res N002 N 71
.ends Legend_151

* Jensen P8R, 8 ohm, 8"
.subckt Jensen_P8R P N 
Re N001 P 6.7
Le N001 N002 0.36m
Cmes N002 N 417.44µ
Lces N002 N 3.56m
Res N002 N 27
.ends Jensen_P8R

* Jensen P10R, 8 ohm, 10"
.subckt Jensen_P10R P N 
Re N001 P 6.7
Le N001 N002 0.54m
Cmes N002 N 381.48µ
Lces N002 N 7.11m
Res N002 N 102
.ends Jensen_P10R

* Jensen P10Q, 8 ohm, 10"
.subckt Jensen_P10Q P N 
Re N001 P 6
Le N001 N002 0.74m
Cmes N002 N 357.17µ
Lces N002 N 9.14m
Res N002 N 51.8
.ends Jensen_P10Q

* Jensen P12N, 8 ohm, 12"
.subckt Jensen_P12N P N 
Re N001 P 6.2
Le N001 N002 0.87m
Cmes N002 N 235.85µ
Lces N002 N 13.47m
Res N002 N 43
.ends Jensen_P12N

* Jensen P12R, 8 ohm, 12"
.subckt Jensen_P12R P N 
Re N001 P 6.7
Le N001 N002 0.58m
Cmes N002 N 633.96µ
Lces N002 N 7.16m
Res N002 N 81
.ends Jensen_P12R

* Jensen P12Q, 8 ohm, 12"
.subckt Jensen_P12Q P N 
Re N001 P 5.6
Le N001 N002 0.58m
Cmes N002 N 536.73µ
Lces N002 N 6.74m
Res N002 N 47.9
.ends Jensen_P12Q

* Jensen P15N, 8 ohm, 15"
.subckt Jensen_P15N P N 
Re N001 P 6.5
Le N001 N002 0.9m
Cmes N002 N 408.48µ
Lces N002 N 10.59m
Res N002 N 50
.ends Jensen_P15N

* Jensen C8R, 8 ohm, 8"
.subckt Jensen_C8R P N 
Re N001 P 7
Le N001 N002 0.43m
Cmes N002 N 395.52µ
Lces N002 N 4m
Res N002 N 37
.ends Jensen_C8R

* Jensen C10Q, 8 ohm, 10"
.subckt Jensen_C10Q P N 
Re N001 P 6
Le N001 N002 0.62m
Cmes N002 N 372.01µ
Lces N002 N 7.5m
Res N002 N 52
.ends Jensen_C10Q

* Jensen C10R, 8 ohm, 10"
.subckt Jensen_C10R P N 
Re N001 P 6.6
Le N001 N002 0.53m
Cmes N002 N 416.27µ
Lces N002 N 6.57m
Res N002 N 42
.ends Jensen_C10R

* Jensen C12K, 8 ohm, 12"
.subckt Jensen_C12K P N 
Re N001 P 7
Le N001 N002 0.84m
Cmes N002 N 147.99µ
Lces N002 N 15.96m
Res N002 N 210
.ends Jensen_C12K

* Jensen C12N, 8 ohm, 12"
.subckt Jensen_C12N P N 
Re N001 P 6.5
Le N001 N002 0.9m
Cmes N002 N 233.44µ
Lces N002 N 8.85m
Res N002 N 42.5
.ends Jensen_C12N

* Jensen C12Q, 8 ohm, 12"
.subckt Jensen_C12Q P N 
Re N001 P 6.5
Le N001 N002 0.62m
Cmes N002 N 575.51µ
Lces N002 N 6.17m
Res N002 N 43
.ends Jensen_C12Q

* Jensen C12R, 8 ohm, 12"
.subckt Jensen_C12R P N 
Re N001 P 6.5
Le N001 N002 0.49m
Cmes N002 N 687.91µ
Lces N002 N 5.97m
Res N002 N 67
.ends Jensen_C12R

* Jensen C15K, 8 ohm, 15"
.subckt Jensen_C15K P N 
Re N001 P 6.7
Le N001 N002 0.96m
Cmes N002 N 278.01µ
Lces N002 N 17.13m
Res N002 N 110
.ends Jensen_C15K

* Jensen C15N, 8 ohm, 15"
.subckt Jensen_C15N P N 
Re N001 P 6.5
Le N001 N002 0.93m
Cmes N002 N 413.41µ
Lces N002 N 11.49m
Res N002 N 39
.ends Jensen_C15N

* Jensen Mod 6-15, 4 ohm, 6"
.subckt Jensen_Mod6-15 P N 
Re N001 P 3
Le N001 N002 0.16m
Cmes N002 N 672.40µ
Lces N002 N 4.52m
Res N002 N 18
.ends Jensen_Mod6-15

* Jensen Mod 8-20, 8 ohm, 8"
.subckt Jensen_Mod8-20 P N 
Re N001 P 6.5
Le N001 N002 0.5m
Cmes N002 N 390.52µ
Lces N002 N 3.36m
Res N002 N 50
.ends Jensen_Mod8-20

* Jensen Mod 10-35, 8 ohm, 10"
.subckt Jensen_Mod10-35 P N 
Re N001 P 6.7
Le N001 N002 0.52m
Cmes N002 N 416.66µ
Lces N002 N 5.36m
Res N002 N 38
.ends Jensen_Mod10-35

* Jensen Mod 10-50, 8 ohm, 10"
.subckt Jensen_Mod10-50 P N 
Re N001 P 6.2
Le N001 N002 0.62m
Cmes N002 N 311.33µ
Lces N002 N 7.21m
Res N002 N 81
.ends Jensen_Mod10-50

* Jensen Mod 10-70, 8 ohm, 10"
.subckt Jensen_Mod10-70 P N 
Re N001 P 5
Le N001 N002 0.52m
Cmes N002 N 231.91µ
Lces N002 N 11.01m
Res N002 N 112
.ends Jensen_Mod10-70

* Jensen Mod 12-35, 8 ohm, 12"
.subckt Jensen_Mod12-35 P N 
Re N001 P 6.8
Le N001 N002 1.15m
Cmes N002 N 330.19µ
Lces N002 N 12.73m
Res N002 N 47
.ends Jensen_Mod12-35

* Jensen Mod 12-50, 8 ohm, 12"
.subckt Jensen_Mod12-50 P N 
Re N001 P 6.3
Le N001 N002 0.66m
Cmes N002 N 532.56µ
Lces N002 N 7.12m
Res N002 N 28
.ends Jensen_Mod12-50

* Jensen Mod 12-70, 8 ohm, 12"
.subckt Jensen_Mod12-70 P N 
Re N001 P 5
Le N001 N002 0.54m
Cmes N002 N 378.22µ
Lces N002 N 10.89m
Res N002 N 43
.ends Jensen_Mod12-70

* Jensen Mod 12-110, 8 ohm, 12"
.subckt Jensen_Mod12-110 P N 
Re N001 P 7.12
Le N001 N002 0.99m
Cmes N002 N 132.71µ
Lces N002 N 26.20m
Res N002 N 199.6
.ends Jensen_Mod12-110

* Jensen Mod 15-120, 8 ohm, 15"
.subckt Jensen_Mod15-120 P N 
Re N001 P 5.3
Le N001 N002 0.64m
Cmes N002 N 492.97µ
Lces N002 N 21.81m
Res N002 N 35
.ends Jensen_Mod15-120

* Jensen Mod 15-200, 8 ohm, 15"
.subckt Jensen_Mod15-200 P N 
Re N001 P 6.5
Le N001 N002 1.07m
Cmes N002 N 284.15µ
Lces N002 N 52.36m
Res N002 N 253
.ends Jensen_Mod15-200
